US05547972
In a similar manner to Example 52b, 1-(4-chlorophenyl)-1-methylethylamine hydrochloride (2.5 g) was treated with 4-chlorobutyryl chloride (1.7 g) in dichloromethane (30 ml) containing triethylamine (3.4 ml) to give 4-chloro-N-[1-(4-chlorophenyl)-1-methylethyl]butyramide which was used directly in part (b) below.

reactant | 1-(4-chlorophenyl)-1-methylethylamine hydrochloride | 2.5 g | Cl.ClC1=CC=C(C=C1)C(C)(C)N
reactant | 4-chlorobutyryl chloride | 1.7 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | triethylamine | 3.4 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-chloro-N-[1-(4-chlorophenyl)-1-methylethyl]butyramide | ClCCCC(=O)NC(C)(C)C1=CC=C(C=C1)Cl | C13H17Cl2NO
